US06432950B1
With the procedure of Example 477, the reaction of 2-cyanopyridine and 2-amino-5-methyl-3-ethoxycarbonyl-thiophene, and the subsequent reaction with POCl3 yields 4-chloro-2-pyridin-2-yl)-6-methyl-thieno-[2,3-d]-pyrimidine.

reactant | 2-cyanopyridine | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | 2-amino-5-methyl-3-ethoxycarbonyl-thiophene | NC=1SC(=CC1C(=O)OCC)C | C8H11NO2S
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-methyl-thieno-[2,3-d]-pyrimidine | CC1=CC2=C(N=CN=C2)S1 | C7H6N2S
